US04021561
A solution of 7.6 g. (0.021 mol) of 2-(4-trifluoromethylsulfonylphenylthio)benzoic acid in 40 ml. of concentrated sulfuric acid is stirred and heated on a steam bath for 1.5 hours. After cooling to room temperature, the solution is slowly poured onto 400 g. of crushed ice. The oil that precipitates is extracted with three 150 ml. portions of an ether-benzene mixture. The combined organic extracts are washed four times with water and three times with dilute sodium bicarbonate solution. The ether-benzene layer is dried over magnesium sulfate, filtered, and evaporated to dryness on a rotary evaporator. The pale yellow solid obtained is recrystallized from acetonitrile to give 2-(trifluoromethylsulfonyl)thioxanthen-9-one, m.p. 163°-164.5°.

reactant | 2-(4-trifluoromethylsulfonylphenylthio)benzoic acid | 0.021 mol | FC(S(=O)(=O)C1=CC=C(C=C1)SC1=C(C(=O)O)C=CC=C1)(F)F | C14H9F3O4S2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(trifluoromethylsulfonyl)thioxanthen-9-one | FC(S(=O)(=O)C1=CC=2C(C3=CC=CC=C3SC2C=C1)=O)(F)F | C14H7F3O3S2
